US05534179
Preparation of N,N-Bis[2-((phenoxycarbonyl)oxy)ethyl]-N,N-dimethylammonium Chloride (6)
To a 500 ml autoclave liner are added N,N-bis[2-((phenoxycarbonyl)oxy)ethyl]-N-methylamine (20.20 g, 56.2 mmol) and acetonitrile (25 ml). The liner is placed in an autoclave and the solution is treated with methyl chloride gas at 85° C. and at a pressure of 60 psig. After 18 h, the cooled mixture is treated with ether (500 ml) precipitating 6 as a white powder, 19.16 g (83%): mp 148°-150° C.

reactant | N,N-bis[2-((phenoxycarbonyl)oxy)ethyl]-N-methylamine | 56.2 mmol, 20.20 g | O(C1=CC=CC=C1)C(=O)OCCN(C)CCOC(=O)OC1=CC=CC=C1 | C19H21NO6
reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
reactant | methyl chloride | CCl | CH3Cl
solvent | ether | 500 ml | CCOCC | C4H10O
product | N,N-Bis[2-((phenoxycarbonyl)oxy)ethyl]-N,N-dimethylammonium Chloride | [Cl-].O(C1=CC=CC=C1)C(=O)OCC[N+](C)(C)CCOC(=O)OC1=CC=CC=C1 | InChI=1S/C20H24NO6.ClH/c1-21(2,13-15-24-19(22)26-17-9-5-3-6-10-17)14-16-25-20(23)27-18-11-7-4-8-12-18;/h3-12H,13-16H2,1-2H3;1H/q+1;/p-1
